US03932499
2-(2',4'-Difluoro-4-biphenylyl)propionic acid (0.5 g.) in ether (25 ml.) was mixed with benzylamine (0.204 g.) in ether (5 ml.). The resulting precipitate was collected, washed with water and dried in vacuo to give benzylamine 2-(2',4'-difluoro-4-biphenylyl)propionate, m.p. 148°-150°C.

reactant | 2-(2',4'-Difluoro-4-biphenylyl)propionic acid | 0.5 g | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(C(=O)O)C | C15H12F2O2
reactant | benzylamine | 0.204 g | C(C1=CC=CC=C1)N | C7H9N
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
product | benzylamine 2-(2',4'-difluoro-4-biphenylyl)propionate | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(C(=O)O)C.C(C1=CC=CC=C1)N | InChI=1S/C15H12F2O2.C7H9N/c1-9(15(18)19)10-2-4-11(5-3-10)13-7-6-12(16)8-14(13)17;8-6-7-4-2-1-3-5-7/h2-9H,1H3,(H,18,19);1-5H,6,8H2
